```spice
* Diode-Connected NMOS Stage with AC and DC Sources

.include "./1genai/data/45nm.sp"

* Parameters
.param VDD=1.2
.param RVAL=1k
.param CVAL=1p

* DC Source
Vdd VDD 0 dc={VDD}

* AC Source for AC Analysis
Vac VDD 0 ac=1

* Components
M0 VDD VDD VOUT1 0 nmos w=500n l=90n
Rc VOUT1 0 {RVAL}
Cc VOUT1 0 {CVAL}

.control
    * DC Operating Point Analysis
    op

    * AC Analysis
    ac dec 10 1 100Meg

    * DC Sweep Analysis
    dc Vdd 0 1.2 0.01

    * Transient Analysis
    tran 1n 100n

quit
.endc
.end
```